US06809105B2
tert-butyl cis-6-(6-chloro-3-pyridinyl)octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate
tert-Butyl cis-octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate (374 mg, 1.65 mmol), prepared as described in (EP0603887 A2) and 5-bromo-2-chloropyridine (314 mg, 1.65 mmol), prepared as described in (Tetrahedron Lett. (1998), 39, 2059-2062) were processed as described in Example 1E to provide the title compound (273 mg, 49% yield). MS (DCI/NH3) m/z 338/340 (M+H)+.

reactant | tert-Butyl cis-octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate | 1.65 mmol, 374 mg | N1([C@@H]2[C@H](CCC1)CNC2)C(=O)OC(C)(C)C | C12H22N2O2
reactant | 5-bromo-2-chloropyridine | 1.65 mmol, 314 mg | BrC=1C=CC(=NC1)Cl | C5H3BrClN
product | tert-butyl cis-6-(6-chloro-3-pyridinyl)octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate | 273 mg, 49% yield | ClC1=CC=C(C=N1)N1C[C@@H]2N(CCC[C@@H]2C1)C(=O)OC(C)(C)C | C17H24ClN3O2
